US06008243
A suspension of 2(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-succinic acid dibenzyl ester (551 mg, 1.07 mmol) in H2O (0.5 mL) was refluxed overnight. Once allowed to cool to ambient temperature, the resultant precipitate was collected and dried in vacuo to provide 436 mg (96%) of 2(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-succinic acid 4-benzyl ester. FABMS: 427 (C26H23N2O4 ; M+H+).

reactant | 2(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-succinic acid dibenzyl ester | 1.07 mmol, 551 mg | C(C1=CC=CC=C1)OC(C(CC(=O)OCC1=CC=CC=C1)N1CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C33H30N2O4
solvent | H2O | 0.5 mL | O | H2O
product | 2(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-succinic acid 4-benzyl ester | 436 mg, 96% | C(C1=CC=CC=C1)OC(CC(C(=O)O)N1CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H24N2O4
